US04346087
Into an apparatus similar to that in Example 1, were charged 314.5 g (1 mole) of N-dodecyltriethylenetetramine and 116.1 g (1 mole) of methyl acetoacetate. At 140° to 150° C., 18 g of water and 32 g of methanol were distilled off to obtain 4-dodecylaminoethylaminoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | N-dodecyltriethylenetetramine | 1 mole, 314.5 g | C(CCCCCCCCCCC)NCCNCCNCCN | C18H42N4
reactant | methyl acetoacetate | 1 mole, 116.1 g | C(CC(=O)C)(=O)OC | C5H8O3
product | 4-dodecylaminoethylaminoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCCCCCC)NCCNCCN1CCN=C(CC1=O)C | C22H44N4O
